US06150351
To a solution of 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylic acid (100 mg) in water (50 ml) was added 0.1 mol/l-sodium hydroxide solution (4.06 ml). The solution was lyophilized. The above obtained powder was dissolved in a mixture of methanol (0.5 ml) and acetone (1.3 ml) under stirring at 30° C. The stirring was continued for 2 hours at room temperature to give crystals, which were collected by filtration and dried to give disodium 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylate (69.1 mg).

reactant | 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylic acid | 100 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CC(=O)O)C(=S)O)C1=O | C20H17N3O5S3
reactant | sodium hydroxide | 4.06 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | acetone | 1.3 ml | CC(=O)C | C3H6O
product | disodium 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylate | 69.1 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CC(=O)O)C(=S)[O-])C1=O.[Na+].[Na+].C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CC(=O)O)C(=S)[O-])C1=O | InChI=1S/2C20H17N3O5S3.2Na/c2*24-13(6-10-4-2-1-3-5-10)22-15-18(27)23-16(20(28)29)12(9-31-19(15)23)17-21-11(8-30-17)7-14(25)26;;/h2*1-5,8,15,19H,6-7,9H2,(H,22,24)(H,25,26)(H,28,29);;/q;;2*+1/p-2/t2*15-,19-;;/m11../s1
